US07311943B2
Triaconta-10,12,19,21-tetraynoic acid amide (BisDA) (980).
CuI (0.126 g, 0.66 mmol) and 10-undecynoic acid amide (0.29 g, 1.59 mmol) were added to a flask and inerted with nitrogen. Pyrollidine (5 mL) was then added. In a separate flask 1-Iodo-nonadeca-1,8,10-triyne (0.5 g, 1.3 mmol) was mixed with pyrollidine (5 mL) and subsequently added slowly to the amide solution. The reaction mix was left in darkness under nitrogen for 48 hours, then quenched with aqueous 1M NH4Cl (10 mL), and worked up with CH2Cl2 and 1 M HCl. The organic was dried over anhydrous MgSO4. Organic products were concentrated by rotary evaporation, although polymer formed, decreasing yield. Hexanes trituration removed unreacted 1-Iodo-nonadeca-1,8,10-triyne. Desired product was obtained by several crystallizations from hexanes/ethyl acetate, again under dark conditions. All handling of the solid was done under red light. Final product triaconta-10,12,19,21-tetraynoic acid amide was made up of white crystals (0.377 g, 0.86 mmol) and was stored frozen (liquid nitrogen) in methylene chloride. 65% yield; 1H NMR (CDCl3) δ: 5.31 (s, 2H, NH2), 2.22-2.26 (m, 10H, CH2—C≡C & CH2—CO), 1.58-1.66 (quin, 2H, J=7, CH2—C—CO), 1.45-1.56 (m, 8H, CH2—C—C≡C), 1.28-1.4 (m, 20H, C—CH2—C), 0.86-0.91 (t, 3H, CH3); 13C NMR (CDCl3) δ 175.69, 77.98, 77.84, 77.34, 65.69, 69.45, 65.37, 57.68, 53.63, 38.37, 38.35, 33.80, 32.97, 32.92, 32.03, 29.34, 29.27, 29.07, 28.94, 28.55, 28.47, 28.26, 28.26, 28.06, 27.17, 25.67, 22.86, 19.39, 19.32 14.30. MS (ESI) [M+H]+ calc. 436.3574 found 436.3560.

reactant | 10-undecynoic acid amide | 1.59 mmol, 0.29 g | C(CCCCCCCCC#C)(=O)N | C11H19NO
reactant | Pyrollidine | 5 mL | N1CCCC1 | C4H9N
reactant | 1-Iodo-nonadeca-1,8,10-triyne | 1.3 mmol, 0.5 g | IC#CCCCCCC#CC#CCCCCCCCC | C19H27I
reactant | pyrollidine | 5 mL | N1CCCC1 | C4H9N
catalyst | CuI | 0.66 mmol, 0.126 g | [Cu]I
product | Triaconta-10,12,19,21-tetraynoic acid amide | C(CCCCCCCCC#CC#CCCCCCC#CC#CCCCCCCCC)(=O)N | C30H45NO
